### PR TITLE
chore: refactoring `Hash.lean`

### PR DESCRIPTION
**Pull request by Eagle941**
# Summary

Renamed `perfect_hash` to `CollisionResistant`
Renamed `simp_hash` to `CollisionResistant_def`

# Details

# Checklist

- [x] Code is formatted akin to the other code in the repo.
- [x] Documentation has been updated if necessary.

### CODE REVIEW

File: ProvenZk/Hash.lean [hunk 1]
```diff
@@ -2,10 +2,10 @@ import ProvenZk.Ext.Vector
 
 def Hash (F: Type) (n: Nat) : Type := Vector F n -> F
 
-def perfect_hash {F n} (h: Hash F n): Prop := ∀{i1 i2}, h i1 = h i2 → i1 = i2
+def CollisionResistant {F n} (h: Hash F n): Prop := ∀{i1 i2}, h i1 = h i2 → i1 = i2
 
-@[simp] theorem simp_hash {h : Hash F n} [Fact (perfect_hash h)] {a b : Vector F n}: h a = h b ↔ a = b := by
-    have : perfect_hash h := (inferInstance : Fact (perfect_hash h)).elim
+@[simp] theorem simp_hash {h : Hash F n} [Fact (CollisionResistant h)] {a b : Vector F n}: h a = h b ↔ a = b := by
```
Comment (kustosz) [inline ProvenZk/Hash.lean:7]: this should be called `CollisionResistant_def` I think

**Review by kustosz — APPROVED** [review]
just one more naming remark, otherwise this can be merged
